US07943634B2
To a solution of 4-amino-3,5-dichloro pyridine (0.125 g, 0.765 mmol) in dry DMF, sodium hydride (0.0162 g, 0.675 mmol) was added at 0° C. followed by 4-nitrophenyl 2-(ethoxycarbonyl)-8-methoxy-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine-5-carboxylate (0.197 g, 0.45 mmol). Water was added to RM. Solid filtered out and purified on Silica Gel column with CHCl3: EtOAc to yield N-(3,5-dichloropyridin-4-yl)-2-(ethoxycarbonyl)-8-methoxy-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine-5-carboxamide.

reactant | 4-amino-3,5-dichloro pyridine | 0.765 mmol, 0.125 g | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | sodium hydride | 0.675 mmol, 0.0162 g | [H-].[Na+]
reactant | 4-nitrophenyl 2-(ethoxycarbonyl)-8-methoxy-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine-5-carboxylate | 0.45 mmol, 0.197 g | C(C)OC(=O)N1CC2=C(CC1)C=1C(O2)=C(C=CC1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC | C22H20N2O8
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3,5-dichloropyridin-4-yl)-2-(ethoxycarbonyl)-8-methoxy-1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine-5-carboxamide | ClC=1C=NC=C(C1NC(=O)C=1C=CC(=C2C1C1=C(CN(CC1)C(=O)OCC)O2)OC)Cl | C21H19Cl2N3O5
